US08119627B2
Preparation of ethyl 3-(2-(2,4-dichlorophenoxy)phenylamino)-8-azabicyclo[3.2.1]octane-8-carboxylate STX1765 C22H24Cl2N2O3, MW: 435.34
To a solution of 2-(4-chlorophenoxy)phenylamine (130 mg, 0.51 mmol), N-(ethoxycarbonyl)-tropinone (201 mg, 1.02 mmol) and acetic acid (153 mg, 2.55 mmol) in DCE (4 ml), was added sodium triacetoxyborohydride (270 mg, 1.28 mmol). The reaction mixture was allowed to stir at room temperature for 10 days. On return, the reaction was quenched with saturated aqueous sodium sodium bicarbonateonate (15 ml) and extracted with ethyl acetate (2×15 ml). The combined organics were dried (MgSO4), filtered and concentrated in vacuo. Purification by flash chromatography then proceeded (eluent; 9:1 hexane:ethyl acetate to ethyl acetate) to afford the title compound as a pale yellow oil (49.7 mg, 22%). 1H NMR (270 MHz, CDCl3): δ 1.24 (3H, t, J=7.2 Hz, CH3), 1.63-1.86 (6H, m, 2×CH2, 2×CH), 2.03-2.18 (2H, m, 2×CH), 3.69-3.72 (1H, m, CH), 4.05-4.30 (3H, m, CH2, NH), 4.39 (1H, d, J=4.5 Hz, CH), 6.57-6.68 (2H, m, Ar—H), 6.77 (1H, d, J=8.9 Hz, Ar—H), 6.82-6.86 (1H, dd, J=1.5, 7.9 Hz, Ar—H), 7.04-7.07 (1H, d, J=1.5, 7.5 Hz, Ar—H), 7.09-7.13 (1H, dd, J=2.2, 8.8 Hz, Ar—H), 7.44-7.45 ppm (1H, d, J=2.5 Hz, Ar—H). 13C NMR (67.93 MHz, CDCl3): δ 14.9, 28.0, 28.3, 35.0, 35.6, 44.5, 52.4, 61.0, 111.5, 116.8, 118.1, 120.1, 125.9, 128.0, 130.3, 132.0, 138.9, 142.0, 152.0, 153.9 ppm. LCMS: M+H, 435.44 HPLC: 95.62% (5.044 min, isocratic 90% acetonitrile, 10% water at 1 ml/min).

reactant | 2-(4-chlorophenoxy)phenylamine | 0.51 mmol, 130 mg | ClC1=CC=C(OC2=C(C=CC=C2)N)C=C1 | C12H10ClNO
reactant | N-(ethoxycarbonyl)-tropinone | 1.02 mmol, 201 mg | CCOC(=O)N1[C@@H]2CC[C@H]1CC(=O)C2 | C10H15NO3
reactant | acetic acid | 2.55 mmol, 153 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.28 mmol, 270 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCE | 4 ml | ClCCCl | C2H4Cl2
product | ethyl 3-(2-(2,4-dichlorophenoxy)phenylamino)-8-azabicyclo[3.2.1]octane-8-carboxylate | 49.7 mg, 22% | ClC1=C(OC2=C(C=CC=C2)NC2CC3CCC(C2)N3C(=O)OCC)C=CC(=C1)Cl | C22H24Cl2N2O3
